US06187905B1
A solution of 0.7 g (0.645 mmol) of 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2(RS)-hydroxyvaleramide and 328 mg (0.773 mmol) of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one in 20 ml of dichloromethane was stirred under a nitrogen atmosphere at room temperature for 30 minutes. A further 328 mg. (0.773 mmol) of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one were added and the mixture was stirred for 1 hour. The solution was extracted with a solution of 10 g of sodium thiosulphate in 40 ml of saturated sodium bicarbonate solution then dried over anhydrous magnesium sulphate, filtered and evaporated to dryness. The residue was triturated with diethyl ether/petroleum ether (1:1) and the solid was removed by filtration to give 660 mg of 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxovaleramide as a white solid. MS: m/e 1084.5 [M+H]+.

reactant | 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)-propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2(RS)-hydroxyvaleramide | 0.645 mmol, 0.7 g | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)N)O)CC(F)(F)F | C52H82F3N7O14
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.773 mmol, 328 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.773 mmol | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxovaleramide | 660 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)N)=O)CC(F)(F)F | C52H80F3N7O14
